US08835462B2
To a solution of 3-(((3S,6S,7R,8S)-8-benzyl-3-((tert-butoxycarbonyl)amino)-6-methyl-4-oxo-1,5-dioxonan-7-yl)oxy)propanoic acid (162 mg, 0.359 mmol, 1.00 equiv) in THF (3.6 mL, 0.1 M) at 0° C. (ice water bath) was added a 1 M solution of borane tetrahydrofuran complex in THF (0.897 mL, 0.897 mmol, 2.5 equiv). The resulting colorless solution was stirred at 0° C. for 4 h, quenched with 1 N HCl (3 mL), poured into H2O (20 mL), and extracted with EtOAc (3×20 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated to provide a film. The crude film was purified by automated silica gel column chromatography (5-75% acetone in hexanes) to yield tert-butyl ((3S,7S,8R,9S)-7-benzyl-8-(3-hydroxypropoxy)-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamate (121 mg, 77%) as an oily white solid: IR (ATR) 3365, 2927, 2874, 1747, 1695, 1496, 1454, 1367, 1295, 1202, 1071, 853, 746 cm−1; 1H NMR (400 MHz, CDCl3) δ 7.35-7.12 (m, 5H), 5.17 (d, J=8.3 Hz, 1H), 4.98 (dq, J=8.6, 6.4 Hz, 1H), 4.60 (q, J=7.5 Hz, 1H), 3.96-3.83 (m, 2H), 3.83-3.75 (m, 2H), 3.71 (dt, J=8.8, 5.8 Hz, 1H), 3.49-3.37 (m, 2H), 3.26 (dd, J=11.4, 7.4 Hz, 1H), 3.16 (t, J=8.7 Hz, 1H), 3.09 (dd, J=13.6, 3.5 Hz, 1H), 2.38 (t, J=12.5 Hz, 1H), 2.13 (d, J=13.0 Hz, 1H), 1.91 (d, J=16.2 Hz, 1H), 1.86 (p, J=5.8 Hz, 2H), 1.50 (d, J=6.4 Hz, 3H), 1.42 (s, 9H); 13C NMR (100 MHz, CDCl3) δ 172.27, 154.99, 139.66, 129.13, 128.49, 126.22, 99.99, 85.31, 80.12, 77.22, 75.10, 72.86, 72.11, 71.09, 61.25, 52.89, 47.30, 35.14, 32.59, 28.27, 18.76; HRMS-ESI (m/z) [M+Na]+ calc'd for C23H35NO7Na, 460.2306. found, 460.2320.

reactant | 3-(((3S,6S,7R,8S)-8-benzyl-3-((tert-butoxycarbonyl)amino)-6-methyl-4-oxo-1,5-dioxonan-7-yl)oxy)propanoic acid | 0.359 mmol, 162 mg, 1.00 equiv | C(C1=CC=CC=C1)[C@@H]1[C@H]([C@@H](OC([C@H](COC1)NC(=O)OC(C)(C)C)=O)C)OCCC(=O)O | C23H33NO8
solvent | THF | 0.1 M, 3.6 mL | C1CCOC1 | C4H8O
solvent | THF | 0.897 mmol, 0.897 mL, 2.5 equiv | C1CCOC1 | C4H8O
product | tert-butyl ((3S,7S,8R,9S)-7-benzyl-8-(3-hydroxypropoxy)-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamate | 121 mg, 77% | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1OCCCO)C)=O)NC(OC(C)(C)C)=O | C23H35NO7
